US07951819B2
N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)benzo[c][1,2,5]thiadiazole-5-carboxamide (CJS 3729)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and benzo[c][1,2,5]thiadiazole-5-carbonyl chloride to afford the title compound (28 mg, 33%). 1H-NMR (δ, ppm, DMSO-d6): 6.51 (d, 1H, HPy,5, J=6.0 Hz), 6.95 (d, 1H, Harom, J=8.0 Hz), 7.46 (t, 1H, Harom, J=8.0 Hz), 7.68 (t, 1H, Harom, J=2.0 Hz), 7.71 (d, 1H, Harom, J=8.0 Hz), 7.82 (d, 1H, HPy,6, J=6.0 Hz), 7.91 (d, 1H, Harom, J=8.0 Hz), 8.15-8.23 (m, 2H, Harom), 8.73 (s, 1H, Harom), 10.68 (s, 1H, NHamide), 11.21 (s, 1H, NHPy3), 11.39 (s, 1H, NHPy2). HRMS (EI): m/z [M+H] calcd for C19H13N6O3S: 405.0770; found: 405.0772.

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | benzo[c][1,2,5]thiadiazole-5-carbonyl chloride | N=1SN=C2C1C=CC(=C2)C(=O)Cl | C7H3ClN2OS
product | N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)benzo[c][1,2,5]thiadiazole-5-carboxamide | 28 mg, 33% | O=C1NC=2C(=NC=CC2OC=2C=C(C=CC2)NC(=O)C2=CC=3C(=NSN3)C=C2)N1 | C19H12N6O3S
